US07652054B2
N-Butylsulfonyl-3-(4-imidazol-1-ylmethylphenyl)-5-iso-butylthiophene-2-sulfonamide
Crude 3-(4-imidazol-1-ylmethylphenyl)-5-iso-butylthiophene-2-sulfonamide (prepared according to the procedure described in Example 10(c) above) was dissolved in THF (3 mL) under N2 (g). NaOH (1.0 mL, 1M, 1.0 mmol) was added to the mixture, which was then stirred for 10 min. Butanesulfonyl chloride (45 μL, 0.35 mmol) was then added, and the mixture was stirred for 24 h at room temperature. The reaction mixture was then diluted with ethyl acetate (150 mL) and washed with water and brine. The organic phase was dried over MgSO4 and the solvent was removed in vacuo. The crude product was recrystallised from acetone to yield the title compound (31.7 mg, 0.064 mmol).

reactant | 3-(4-imidazol-1-ylmethylphenyl)-5-iso-butylthiophene-2-sulfonamide | N1(C=NC=C1)CC1=CC=C(C=C1)C1=C(SC(=C1)CC(C)C)S(=O)(=O)N | C18H21N3O2S2
reactant | NaOH | 1.0 mmol, 1M, 1.0 mL | [OH-].[Na+]
reactant | Butanesulfonyl chloride | 0.35 mmol, 45 μL | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | N-Butylsulfonyl-3-(4-imidazol-1-ylmethylphenyl)-5-iso-butylthiophene-2-sulfonamide | 0.064 mmol, 31.7 mg | C(CCC)S(=O)(=O)NS(=O)(=O)C=1SC(=CC1C1=CC=C(C=C1)CN1C=NC=C1)CC(C)C | C22H29N3O4S3
